US07081454B2
(S)-4-(1-Hydroxymethyl-2-phenyl-ethylamino)-3-[6-(4-isopropyl-piperazin-1-yl)-4-methyl-1H-benzimidazol-2-yl]-1H-pyridin-2-one:
To a solution of (S)-4-(1-hydroxymethyl-2-phenyl-ethylamino)-3-(4-methyl-6-piperazin-1-yl-1H-benzimidazol-2-yl)-1H-pyridin-2-one (25 mg, 0.054 mmol) in methanol (0.5 mL) was added acetone (0.25 mL) and 1 M THF solution of NaCNBH3 (0.2 mL). The reaction mixture was stirred at room temperature for 1 h and concentrated in vacuo. The residue was purified by prep. HPLC to yield the title compound (12 mg, 44%). 1H NMR (400 MHz, CD3OD) δ 7.10–7.24 (6H, m), 7.08 (1H, s), 7.06 (1H, s), 6.06 (1H, d, J=7.9 Hz), 3.58–4.01 (10H, m), 3.34 (1H, m), 3.14 (1H, m), 2.98 (1H, dd, J=5.9, 13.7 Hz), 2.83 (1H, dd, J=7.9, 13.7 Hz), 2.60 (3H, s), 1.44 (6H, d, J=6.7 Hz). LCMS (M+H)+ m/z 501 (t=1.80 min.).

reactant | (S)-4-(1-hydroxymethyl-2-phenyl-ethylamino)-3-(4-methyl-6-piperazin-1-yl-1H-benzimidazol-2-yl)-1H-pyridin-2-one | 0.054 mmol, 25 mg | OC[C@H](CC1=CC=CC=C1)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCNCC2 | C26H30N6O2
reactant | acetone | 0.25 mL | CC(=O)C | C3H6O
reactant | THF | 1 M | C1CCOC1 | C4H8O
reactant | NaCNBH3 | 0.2 mL | [BH3-]C#N.[Na+]
solvent | methanol | 0.5 mL | CO | CH4O
product | (S)-4-(1-Hydroxymethyl-2-phenyl-ethylamino)-3-[6-(4-isopropyl-piperazin-1-yl)-4-methyl-1H-benzimidazol-2-yl]-1H-pyridin-2-one | 12 mg, 44% | OC[C@H](CC1=CC=CC=C1)NC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCN(CC2)C(C)C | C29H36N6O2
